US09290451B2
e) 2-Cyclopropyl-1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethylamine hydrochloride
To a solution of [2-cyclopropyl-1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-carbamic acid tert-butyl ester (0.4 g, 1.43 mmol) in methanol (10 mL) was added hydrochloric acid (4N in dioxane, 3.5 mL, 14.8 mmol) and the reaction mixture was stirred at ambient temperature for 4 hours. The organic layer was washed with brine (20 mL), dried over anhydrous Na2SO4 and concentrated to give the title product (0.25 g, 81%) as a light yellow solid. 1H-NMR (DMSO, 400 MHz): 0.010-0.02 (m, 2H); 0.38-0.42 (m, 2H); 0.61-0.63 (m, 1H); 1.67 (s, 3H); 1.78-1.91 (m, 2H); 2.66 (s, 3H); 8.89 (br s, 3H).

reactant | [2-cyclopropyl-1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-carbamic acid tert-butyl ester | 1.43 mmol, 0.4 g | C(C)(C)(C)OC(NC(CC1CC1)(C1=NOC(=N1)C)C)=O | C14H23N3O3
reactant | hydrochloric acid | 14.8 mmol, 4N, 3.5 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2-Cyclopropyl-1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethylamine hydrochloride | 0.25 g, 81% | Cl.C1(CC1)CC(C1=NOC(=N1)C)(C)N | InChI=1S/C9H15N3O.ClH/c1-6-11-8(12-13-6)9(2,10)5-7-3-4-7;/h7H,3-5,10H2,1-2H3;1H
